US08026257B2
tert-Butyl 4-phenyl-4-(((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate.
tert-Butyl 4-(((5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (55 mg, 0.09 mmol) was dissolved in dry tetrahydrofuran (1.5 mL) and stirred at room temperature for 15 min. The stirred mixture was cooled to −78° C. and treated with a solution of tert-butyllithium (1.7M in pentane, 103 μL, 0.17 mmol) over several minutes. The mixture was stirred at −78° C. for 20 min, quenched by addition of a few drops of methanol and concentrated. Flash chromatography on silica gel (20% ethyl acetate/hexanes) afforded 34 mg (91%) as a clear oil. 1H-NMR (CDCl3, 300 MHz) δ 7.93 (s, 1H), 7.66 (dd, J=7.0, 1.1 Hz, 1H), 7.04-7.23 (m, 7H), 5.38 (s, 2H), 4.70 (s, 2H), 3.39 (s, 2H), 3.35-3.41 (m, 2H), 2.94-3.03 (m, 2H), 2.05-2.09 (m, 2H), 1.71-1.80 (m, 2H), 1.39 (s, 9H), 0.72-0.78 (m, 2H), 0.14 (s, 9H). Mass spec.: 552.15 (MH)+.

reactant | tert-Butyl 4-(((5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.09 mmol, 55 mg | BrC=1C=C2C=NN(C2=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H44BrN3O4Si
reactant | tert-butyllithium | 0.17 mmol, 1.7M, 103 μL | C(C)(C)(C)[Li]
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-phenyl-4-(((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=CC=C2C=NN(C12)COCC[Si](C)(C)C | C31H45N3O4Si
